US06620957B1
Ethyl acetate (50 ml) was added to bis(p-tert-butylphenyl)iodonium chloride (17.06 g; 39.79 mmol) and methyl camphorsulfonate (10.78 g; 43.76 mmol). The resultant mixture was heated at 77° C.-80° C. and refluxed for 24 hours while being stirred. The reaction mixture was cooled, and formed solid was removed through filteration. The solid was recrystallized from acetone, and dried under vacuum, to thereby yield 20.63 g of bis(p-tert-butylphenyl)iodonium camphorsulfonate (yield: 83%).

reactant | bis(p-tert-butylphenyl)iodonium chloride | 39.79 mmol, 17.06 g | [Cl-].C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C
reactant | methyl camphorsulfonate | 43.76 mmol, 10.78 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)OC | C11H18O4S
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | bis(p-tert-butylphenyl)iodonium camphorsulfonate | yield 20.63 g, yield: 83% | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-].C(C)(C)(C)C2=CC=C(C=C2)[I+]C2=CC=C(C=C2)C(C)(C)C | InChI=1S/C20H26I.C10H16O4S/c1-19(2,3)15-7-11-17(12-8-15)21-18-13-9-16(10-14-18)20(4,5)6;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h7-14H,1-6H3;7H,3-6H2,1-2H3,(H,12,13,14)/q+1;/p-1
